US08247431B2
Step 2: Preparation of 3-tert-butoxycarbonylamino-isonicotinic acid
Pyridin-3-yl-carbamic acid tert-butyl ester (6.20 g) was dissolved in anhydrous diethyl ether (260 mL), cooled to −78° C. and N,N,N′,N′-tetramethylethylendiamine (14.4 mL) was added. A solution of n-butyl lithium (1.6 M in hexane, 60 mL) was added slowly over a time period of 10 minutes. After the addition of the reagent was completed, the reaction mixture was allowed to warm to −10° C. and stirred at this temperature for 2 hours. The reaction mixture was then re-cooled to −78° C. and slowly poured on a stirred mixture of dry ice in diethyl ether. After stirring for 30 minutes, water was added to the reaction mixture and the layers were separated after complete dissolution of solid materials. The aqueous layer was washed 2× with diethyl ether and the pH-value of the aqueous layer was adjusted to 5-6. The organic layer was extracted 2× with MTB-ether. The combined organic layer was washed with a small amount of brine, dried over MgSO4 and concentrated in vacuum. The residue was washed with hexane to remove oily by-products and dried in vacuum to afford 1.19 g of the title compound as beige solid. The aqueous washing was concentrated on a rotary evaporator to approx. 50 mL, inorganic salts were filtered off and MTB-ether was added to the mother liquor. 6N hydrochloric acid was slowly added into the well-stirred mixture until the pH-value was adjusted to −3. The layers were separated, the aqueous layer was washed 2× with MTB-ether and 2× with chloroform. The combined organic layer was dried over MgSO4 and dried in vacuum to give another 2.03 g of beige solid. Together, the first organic extract and 3.22 g of the title compound of the formula

reactant | Pyridin-3-yl-carbamic acid tert-butyl ester | 6.20 g | C(C)(C)(C)OC(NC=1C=NC=CC1)=O | C10H14N2O2
reactant | N,N,N′,N′-tetramethylethylendiamine | 14.4 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 1.6 M, 60 mL | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | diethyl ether | 260 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-tert-butoxycarbonylamino-isonicotinic acid | 1.19 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CN=C1 | C11H14N2O4
